datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(C)C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21][H])([O][H])[O]CC.[Cl-]>>[Cl-].[H][O:10][H].[H][O+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21][H])([NH]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].[H][NH+:21]=[C:20]([NH]C)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H]N([C:20]1(OC(C([O:21]1)[H])C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C([O-:21])[H])C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)C)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)C)C1=CC=CC=C1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C)C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(C)[NH]1 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C(C)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(C)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CCCCCC)C>>CN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CCCCCC)[O-:10])C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[K][O+:21]([C:20]([O-:10])(OCCCCCC)OC)C1=CC=CC=C1>>[K][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OCCCCCC)OC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC1=CC=CC=C1)[H].[O-:21]CCCCCC>>CCN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CCCCCC)[H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C([O:21]1)CC)[H])[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])CC)[H])C 10=20;20,21=21"
"[O:10]([K])C([H])C([H])C(C)C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)C.[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C1=CC=CC=C1)C 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C([H])[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C([H])[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"[H][S:10]C([H])C([H])C([H])[O][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C([H])[O]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CC)[H]>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CC)[O-:10])[H] 21=20;20,10=10"
"[H][O:10]C([H])C(CC)[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(CC)[O][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C)[NH][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CC)CC>>CCC1C(C(O[C:20](=[O:10])N1CC)CC)CC.[O-:21]CCCCCC 10=20;20,21=21"
"[O:10]([K])C(CC)/C([H])=C([H])\C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C([H])=C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[OH:10]C(CC)C(C)C([H])C(O)[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(O)C([H])C(C)C(CC)[OH+:10]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CC)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)CCCCCC.[O-:21]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1 10=20;20,21=21"
"C[NH:10][H].C1CC(=O)N(C1=O)O[C:20](=[O:21])CCCCCC>>C[NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)CCCCCC)[H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CC.[O-:21]CCCCCC>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CC 21=20;20,10=10"
"[H][S:10]C(C)C(CC)[S][C:20]([S]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]C 10=20;20,21=21"
